US05120347
To a stirred slurry of 3.35 g (20 mmol) of n-propylhydrazine oxalate and 2.24 g (20 mmol) of sodium carbonate in 50 mL of water and 10 mL of tetrahydrofuran (THF) was added 1.7 mL (21.5 mmol) of ethyl isocyanate. The mixture was stirred at room temperature for 16 h and evaporated in vacuo to leave crude 4-ethyl-2-propyl semicarbazide as a white solid.

reactant | n-propylhydrazine oxalate | 20 mmol, 3.35 g | C(C(=O)O)(=O)O.C(CC)NN
reactant | sodium carbonate | 20 mmol, 2.24 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl isocyanate | 21.5 mmol, 1.7 mL | C(C)N=C=O | C3H5NO
solvent | water | 50 mL | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-ethyl-2-propyl semicarbazide | C(C)NC(N(N)CCC)=O | C6H15N3O
